US04448964
In this reference example, 15.01 g of 1-benzyl-3-piperidine methanol and 6.76 g of diketene were reacted similarly as in Reference Example 1, and the reaction product was purified by silica gel column chromatography (eluent:n-hexane:ethyl acetate=1:1 v/v), to obtain 17.50 g of acetoacetic acid-(N-benzyl-3-piperidinylmethyl) ester (yield: 82.5%).

reactant | 1-benzyl-3-piperidine methanol | 15.01 g | C(C1=CC=CC=C1)N1CC(CCC1)CO | C13H19NO
reactant | diketene | 6.76 g | C=C1CC(=O)O1 | C4H4O2
product | acetoacetic acid-(N-benzyl-3-piperidinylmethyl) ester | 17.50 g, yield: 82.5% | C(C1=CC=CC=C1)N1CC(CCC1)COC(CC(=O)C)=O | C17H23NO3
